US09382197B2
methyl 4-(1-aminoethyl)-3-methoxybenzoate hydrochloride
To a degassed solution of methyl 4-(1-(hydroxyimino)ethyl)-3-methoxybenzoate (0.417 g, 1.87 mmol) in methanol (17 mL) was added 12.0 M aqueous hydrochloric acid (0.389 mL, 4.67 mmol) and 10% palladium on carbon (0.120 g, 0.113 mmol). The reaction mixture was stirred under a balloon atmosphere of H2 overnight. The catalyst was removed via filtration through celite and evaporation of the filtrate to dryness afforded the title compound (0.471 g, 100%). LC-MS: (FA) ES+ 209; 1H NMR (300 MHz, DMSO) δ 8.20 (s, 3H), 7.64 (m, 1H), 7.55 (s, 2H), 4.60 (m, 1H), 3.91 (s, 3H), 3.86 (s, 3H), 1.46 (d, J=6.9 Hz, 3H).

reactant | methyl 4-(1-(hydroxyimino)ethyl)-3-methoxybenzoate | 1.87 mmol, 0.417 g | ON=C(C)C1=C(C=C(C(=O)OC)C=C1)OC | C11H13NO4
reactant | hydrochloric acid | 4.67 mmol, 12.0 M, 0.389 mL | Cl | ClH
solvent | methanol | 17 mL | CO | CH4O
catalyst | palladium on carbon | 0.113 mmol, 0.120 g | [Pd] | Pd
product | methyl 4-(1-aminoethyl)-3-methoxybenzoate hydrochloride | 0.471 g, 100% | Cl.NC(C)C1=C(C=C(C(=O)OC)C=C1)OC | InChI=1S/C11H15NO3.ClH/c1-7(12)9-5-4-8(11(13)15-3)6-10(9)14-2;/h4-7H,12H2,1-3H3;1H
